US06458909B1
Synthesis of 2,5-bis(Hydroxymethyl)-3′-(3,7-dimethyloctyloxy)biphenyl
LiAlH4 (9.4 g, 248 mmol) was added to 300 ml of THF under N2. At RT, dimethyl 2-(3′-(3,7-dimethyloctyloxy)phenyl)terephthalate (75.5 g, 177 mmol), dissolved in 120 ml of THF, was then slowly added dropwise. The mixture was subsequently stirred for 4 hours under reflux. After cooling, excess LiAlH4 was carefully destroyed by addition of H2O. Half-concentration H2SO4 was then carefully added dropwise (about 50 ml). The mixture became very viscous during this addition. After stirring further for 1 hour, a clear solution was obtained and a slimy gray precipitate could be seen at the bottom of the flask. The clear solution was decanted off and the solvent was taken off. The precipitate which remained was stirred with a large amount of water and ethyl acetate and, after filtration, the organic phase was separated off, the solvent was taken off and combined with the first organic phase. The combined organic phases were taken up in ethyl acetate and extracted five times with water. After drying over MgSO4, the solvent was taken off. The resulting oil was stirred a number of times with hexane and dried in an oil pump vacuum. The product was thus obtained as a pure pale yellow, highly viscous oil (54 g, 82%).

reactant | LiAlH4 | 248 mmol, 9.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | dimethyl 2-(3′-(3,7-dimethyloctyloxy)phenyl)terephthalate | 177 mmol, 75.5 g | CC(CCOC=1C=C(C=CC1)C1=C(C(=O)OC)C=CC(=C1)C(=O)OC)CCCC(C)C | C26H34O5
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2,5-bis(Hydroxymethyl)-3′-(3,7-dimethyloctyloxy)biphenyl | 54 g, 82% | OCC1=C(C=C(C=C1)CO)C1=CC(=CC=C1)OCCC(CCCC(C)C)C | C24H34O3
